US05002856
B. Preparation of 3,6-Dibromo-1-Nitrocarbazole
Acetic acid (600 ml) and 3,6-dibromocarbazole (45 g) was placed into a one liter three-necked RB flask equipped with a reflux condenser, mechanical stirrer, and heating mantle. The stirred solution was heated to reflux at which time a solution of nitric acid (10 ml, density 1.4 g/cc, 0.156 mole in 100 ml of acetic acid) was added over a period of 30 minutes. After 2/3 of the nitrating mixture was added, a flocculent yellow precipitate deposited. The remainder of the nitrating mixture was added and the whole refluxed gently for one hour, cooled to 0° C. in an ice bath and filtered. The crude yellow precipitate softens at 232° C. and melts at 243°-246° C. The crude product was recrystallized from boiling acetonitrile to give yellow crystals with m.p. 252°-256° C. (uncovered), 256°-260° C. (covered). [H. Lindemann & F. Muhlhaus, Ber., 58, 2371 (1925) report a m.p. of 260° C. for the product].

reactant | 3,6-dibromocarbazole | 45 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | nitric acid | 0.156 mole, 10 ml | [N+](=O)(O)[O-] | HNO3
solvent | Acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 3,6-Dibromo-1-Nitrocarbazole | BrC=1C=C(C=2NC3=CC=C(C=C3C2C1)Br)[N+](=O)[O-] | C12H6Br2N2O2
